US07981936B2
Step A) N-(2,6-Diisopropyl-phenyl)-malonamic acid ethyl ester
A 5 L 4-necked flask was fitted with a mechanical stirrer and temperature probe and then purged with nitrogen. The flask was charged with 200 mL (188 g, 1.06 mol) of 2,6-diisopropyl aniline, 163 mL (118 g, 1.17 mol) of triethylamine and 2.5 L of ethyl acetate. The clear, yellow solution was cooled to 0° C. with stirring and 143 mL (168 g, 95% pure, 1.06 mol) of ethyl malonyl chloride was added over 15 min. The internal temperature rose as high as 22° C. during the addition. The cold bath was removed and the yellow suspension was stirred for 100 min (HPLC indicated reaction completion). The suspension was filtered and the filtrate was evaporated at the Rotavap giving yellowish solids. The crude ester were then recrystallized from 3.0 L of heptane yielding 240.24 g (78%) of N-(2,6-Diisopropyl-phenyl)-malonamic acid ethyl ester as slightly yellow solids. HPLC analysis indicated >99% (a/a) purity. The materials 1H-NMR spectrum was consistent with structure

reactant | 2,6-diisopropyl aniline | 1.06 mol, 200 mL, 188 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | triethylamine | 1.17 mol, 163 mL, 118 g | C(C)N(CC)CC | C6H15N
reactant | ethyl malonyl chloride | 1.06 mol, 143 mL, 168 g | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | ethyl acetate | 2.5 L | C(C)(=O)OCC | C4H8O2
product | N-(2,6-Diisopropyl-phenyl)-malonamic acid ethyl ester | C(C)OC(CC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C17H25NO3
